US06265423B1
A solution of 4-bromo-2-thiophenecarboxaldehyde (Aldrich, 1.20 g, 6.28 mmol) in 15 ml of anhydrous ethyl ether is brought to −70° C. in a flask fitted with a thermometer, under an atmosphere of argon and with magnetic stirring. Then a 1.6 M solution of MeLi in ether (4.12 ml, 6.59 mmol) is added drop by drop between −70° C. and −60° C. The reaction is followed by CCM (eluent ether:petroleum ether=20:80). The mixture is hydrolysed in the cold with 5 ml of saturated NH4Cl solution, 20 ml of distilled water is added and the mixture is extracted with ether (3×40 ml). The ether phase is dried over MgSO4, filtered and evaporated to obtain 1.28 g of a slightly yellowish oil, 4-bromo-2-(1′-hydroxyethyl)thiophene (gross yield=98.5%).

reactant | 4-bromo-2-thiophenecarboxaldehyde | 6.28 mmol, 1.20 g | BrC=1C=C(SC1)C=O | C5H3BrOS
reactant | MeLi | [Li]C
reactant | NH4Cl | 5 ml | [NH4+].[Cl-]
reactant | water | 20 ml | O | H2O
solvent | ethyl ether | 15 ml | C(C)OCC | C4H10O
solvent | ether | CCOCC | C4H10O
solvent | ether | 6.59 mmol, 4.12 ml | CCOCC | C4H10O
product | 4-bromo-2-(1′-hydroxyethyl)thiophene | yield=98.5% | BrC=1C=C(SC1)C(C)O | C6H7BrOS
